US06391874B1
(3-Chloro-4-(2-fluoro-benzyloxy)-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 3-chloro4-(2-fluoro-benzyloxy)aniline and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.64(1H,bs), 9.40(1H,s), 8.97(1H,s), 8.58(1H,d), 8.11(1H,d), 7.94(1H,d), 7.71(1H,dd), 7.63(1H,dd), 7.45(2H,m), 7.30(2H,m), 5.31 (2H,s), 2.68(3H,s); m/z (M+1+) 462.

reactant | 3-chloro4-(2-fluoro-benzyloxy)aniline | ClC=1C=C(N)C=CC1OCC1=C(C=CC=C1)F | C13H11ClFNO
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (3-Chloro-4-(2-fluoro-benzyloxy)-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.ClC=1C=C(C=CC1OCC1=C(C=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | InChI=1S/C24H17ClFN5O2.ClH/c1-14-30-31-24(33-14)15-6-8-21-18(10-15)23(28-13-27-21)29-17-7-9-22(19(25)11-17)32-12-16-4-2-3-5-20(16)26;/h2-11,13H,12H2,1H3,(H,27,28,29);1H
